US07560558B2
(4,5-Dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanone (650 mg), methanol (6 ml), and a 28% aqueous ammonia solution (6 ml) were placed in a sealed tube and was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 6′-methoxy-5,6-dimethyl-[2,3′]bipyridin-3-ol (109 mg, yield 86%).

reactant | (4,5-Dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanone | 650 mg | CC=1C=C(OC1C)C(=O)C=1C=NC(=CC1)OC | C13H13NO3
reactant | ammonia | 6 ml | N | H3N
solvent | methanol | 6 ml | CO | CH4O
product | 6′-methoxy-5,6-dimethyl-[2,3′]bipyridin-3-ol | 109 mg, yield 86% | COC1=CC=C(C=N1)C1=NC(=C(C=C1O)C)C | C13H14N2O2
